US07517876B2
1-benzyl-1,4-dihydroxynaphthalen-2(1H)-one
A suspension of indium powder (529 mg, 4.60 mmol) in anhydrous N,N-dimethylformamide (4.6 mL) at 25° C. was treated dropwise with benzyl bromide (1.18 g, 820 μL, 6.90 mmol). After addition, the mixture became warm, and after stirring for 2 h, most of the indium was consumed. The solution was cooled to 0° C. and a cold (0° C.) solution of 2-hydroxy-1,4-naphthoquinone (200 mg, 1.15 mmol) in N,N-dimethylformamide (2 mL) was added via cannula. The orange solution was stirred at 0° C. for 3 h, and then allowed to warm to ambient temperature for 18 h. The pale yellow solution was treated with saturated ammonium chloride solution and diluted with ethyl acetate. The mixture was stirred with saturated sodium potassium tartarate solution until most solids had dissolved. The layers were separated and the organic layer was extracted with water (4×) and saturated NaCl solution. Drying (Na2SO4), filtering and concentration in vacuo afforded an oil, which was purified by flash chromatography, eluting with methanol in dichloromethane. These procedures afforded the title compound (181 mg, 68%) as a light yellow oil. 1H NMR (300 MHz, CDCl3): δ 8.10-6.75 (m, 9H), 4.70 (s, 2H), 4.15 (s, 1H), 3.85 (d, J=19.12 Hz, 1H), 3.70 (d, J=19.12 Hz, 1H).

reactant | indium | 4.60 mmol, 529 mg | [In] | In
reactant | benzyl bromide | 6.90 mmol, 820 μL, 1.18 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-hydroxy-1,4-naphthoquinone | 1.15 mmol, 200 mg | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium potassium tartarate | C(C(O)C(O)C(=O)[O-])(=O)[O-].[K+].[Na+]
solvent | N,N-dimethylformamide | 4.6 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-1,4-dihydroxynaphthalen-2(1H)-one | 181 mg, 68% | C(C1=CC=CC=C1)C1(C(C=C(C2=CC=CC=C12)O)=O)O | C17H14O3
